US04230850
4-(3'-Morpholino-2'-methylpropoxy)-3,8-diphenyl-coumarin
Prepared according to the method of Example 8, by alkylation of 4-hydroxy-3,8-diphenyl-coumarin with 3-morpholino-2-methyl-1-chloropropane. After recrystallisation from ethanol, a solid melting at 120°-121° C. is obtained. Yield 69.1%.

reactant | 4-hydroxy-3,8-diphenyl-coumarin | OC1=C(C(OC2=C(C=CC=C12)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C21H14O3
reactant | 3-morpholino-2-methyl-1-chloropropane | O1CCN(CC1)CC(CCl)C | C8H16ClNO
product | 4-(3'-Morpholino-2'-methylpropoxy)-3,8-diphenyl-coumarin | Yield 69.1% | O1CCN(CC1)CC(COC1=C(C(OC2=C(C=CC=C12)C1=CC=CC=C1)=O)C1=CC=CC=C1)C | C29H29NO4
